US04255426
1-(2-Hydroxy-3-n-hexadecyloxypropyl)-piperazine
1-Benzyl-4-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine hydrochloride (8 g, 0.0146 mol) was dissolved in toluene (100 ml), methanol (100 ml) and tetrahydrofuran (700 ml) and divided into three 300 ml portions. Each portion was hydrogenated overnight at room temperature on a Parr shaker using a 10% palladium on carbon catalyst (2 g) and 50 p.s.i.g. hydrogen. The catalyst was filtered off and the filtrate evaporated under reduced pressure to a solid, which was triturated under acetone and filtered to give a total yield of product of 2.9 g (43%), mp 230° C. (dec).

reactant | 1-Benzyl-4-(2-hydroxy-3-n-hexadecyloxypropyl)-piperazine hydrochloride | 0.0146 mol, 8 g | Cl.C(C1=CC=CC=C1)N1CCN(CC1)CC(COCCCCCCCCCCCCCCCC)O
reactant | methanol | 100 ml | CO | CH4O
reactant | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | 1-(2-Hydroxy-3-n-hexadecyloxypropyl)-piperazine | OC(CN1CCNCC1)COCCCCCCCCCCCCCCCC | C23H48N2O2
